US08293917B2
A solution of 3-[5-(1-{[1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carbonyl]-amino}-butyl)-pyridine-3-sulfonyl]-propionic acid methyl ester (51 mg, 0.10 mmol) in THF (2.5 mL) is treated lithium borohydride (13 mg, 0.59 mmol) and heated at 70° C. for 1 hour. After cooling to room temperature, the reaction is quenched by slow addition of 10 mL of water and extracted with EtOAc (2×25 mL). The combined organic layers are washed with brine (50 mL), dried over magnesium sulfate, filtered and concentrated in vacuo. Purification by flash chromatography on silica gel (eluted with 50 to 100% EtOAc/hexanes) followed by preparative reverse phase HPLC (eluted with 5 to 95% CH3CN/H2O and 0.1% TFA as additive) affords 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid {1-[5-(3-hydroxy-propane-1-sulfonyl)-pyridin-3-yl]-butyl}-amide (8.0 mg, 17%).

reactant | 3-[5-(1-{[1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carbonyl]-amino}-butyl)-pyridine-3-sulfonyl]-propionic acid methyl ester | 0.10 mmol, 51 mg | COC(CCS(=O)(=O)C=1C=NC=C(C1)C(CCC)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)Cl)=O | C24H27ClN4O5S
reactant | lithium borohydride | 0.59 mmol, 13 mg | [BH4-].[Li+]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 1-(4-chloro-phenyl)-5-methyl-1H-pyrazole-4-carboxylic acid {1-[5-(3-hydroxy-propane-1-sulfonyl)-pyridin-3-yl]-butyl}-amide | 8.0 mg, 17% | OCCCS(=O)(=O)C=1C=C(C=NC1)C(CCC)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)Cl | C23H27ClN4O4S
